US06914074B2
8-Fluoro-2-naphthol
The title compound was prepared by reacting 1-fluoro-7-methoxynaphthalene (7.99 g, 45.34 mmol) with boron tribromide (68 mL of 1 N solution, 68 mmol) according to method D to yield 3.99 g (54%) of a red solid. An analytical sample was prepared by preparative reverse phase HPLC to yield a white solid: mp 89-92° C.;

reactant | 1-fluoro-7-methoxynaphthalene | 45.34 mmol, 7.99 g | FC1=CC=CC2=CC=C(C=C12)OC | C11H9FO
reactant | boron tribromide | 68 mmol, 1 N, 68 mL | B(Br)(Br)Br | BBr3
product | 8-Fluoro-2-naphthol | FC=1C=CC=C2C=CC(=CC12)O | C10H7FO
